US07700609B2
3-[2-(3-aminopyrrolidine-1-carbonyl)-thiazolo[4,5-h]quinazolin-8-ylamino]-benzenesulfonamide
Trifluoroacetic acid (1 ml) was added to a suspension of {1-[8-(3-Sulfamoyl-phenylamino)-thiazolo[4,5-h]quinazoline-2-carbonyl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester (87 mg, 0.15 mmol) in dichloromethane (1 ml). The reaction mixture was stirred at room temperature for 1 hour. The solution was concentrated under reduced pressure and the residue was purified by reverse phase preparative HPLC [Waters Delta-Pak C18, 15 uM, 100 A column, gradient 10%-100% B (solvent A: 0.05% TFA in water; solvent B: CH3CN) over 10 minutes at 25 mL/min] to afford the title compound as a yellow solid. MS (ES+) 470, (ES−) 468. δH (d6 DMSO) 2.0-2.5 (4H, m), 3.70-4.05 (3H, m), 4.31-4.44 (2H, m), 7.37 (2H, s), 7.52 (1H, d), 7.60 (1H, t), 8.02-8.13 (6H, m), 8.69 (1H, s), 9.55 (1H, d), 10.57 (1H, s).

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | {1-[8-(3-Sulfamoyl-phenylamino)-thiazolo[4,5-h]quinazoline-2-carbonyl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | 0.15 mmol, 87 mg | C(C)(C)(C)OC(NC1CN(CC1)C(=O)C=1SC2=C(C=CC=3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)N1)=O | C25H27N7O5S2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 3-[2-(3-aminopyrrolidine-1-carbonyl)-thiazolo[4,5-h]quinazolin-8-ylamino]-benzenesulfonamide | NC1CN(CC1)C(=O)C=1SC2=C(C=CC=3C=NC(=NC23)NC=2C=C(C=CC2)S(=O)(=O)N)N1 | C20H19N7O3S2
